US05206240
Step B: Preparation of 3,4-dihydro-6-amino-1'-methyl-spiro[(2H)-1-benzopyran-2,4'-piperidin]-4-on
The 3,4-dihydro-1'-methyl-6-nitro-spiro[2H -1-benzopyran-2,4'-piperdin]-4-one (11.2 g, 0.04 mol) was dissolved in acetic acid (200 ml) and was hydrogenated using two "lab spoon" spatulas of Raney nickel catalyst in a Parr shaker. The theoretical amount of hydrogen was absorbed in 4 hours. The reaction mixture was filtered under nitrogen and the acetic acid was removed in vacuo. The residual oil was taken up in 3N HCl (150 ml), washed with ethyl acetate and neutralized with solid sodium bicarbonate. The product was extracted into ethyl acetate (3×100 ml), washed with sat'd. NaCl, dried, filtered and concentrated in vacuo to yield 7.4 g (75%) of product.

reactant | 3,4-dihydro-1'-methyl-6-nitro-spiro[2H -1-benzopyran-2,4'-piperdin]-4-one | 0.04 mol, 11.2 g | CN1CCC2(CC1)OC1=C(C(C2)=O)C=C(C=C1)[N+](=O)[O-] | C14H16N2O4
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
catalyst | Raney nickel | [Ni] | Ni
product | 3,4-dihydro-6-amino-1'-methyl-spiro[(2H)-1-benzopyran-2,4'-piperidin]-4-on | 7.4 g, 75% | NC=1C=CC2=C(C(CC3(CCN(CC3)C)O2)=O)C1 | C14H18N2O2
